US07435837B2
Treatment of (±)-(5-chloro-7-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (1.50 g, 3.10 mmol) with thiophene-3-boronic acid (0.62 g, 4.88 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.265 g, 0.325 mmol), and potassium carbonate (0.898 g, 6.5 mmol) generally according to the procedure described for Intermediate 35 provided 0.22 g (17%) of (±)-(5-chloro-7-thien-3-yl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. mp 115-117° C.; Anal. calcd. for C20H17ClO4S2: C, 57.07; H, 4.07. Found: C, 56.17; H, 3.85.

reactant | (±)-(5-chloro-7-{[(trifluoromethyl)sulfonyl]oxy}-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 3.10 mmol, 1.50 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2OS(=O)(=O)C(F)(F)F)Cl | C17H14ClF3O7S2
reactant | thiophene-3-boronic acid | 4.88 mmol, 0.62 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 6.5 mmol, 0.898 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.325 mmol, 0.265 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | (±)-(5-chloro-7-thien-3-yl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 0.22 g, 17% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=CSC=C2)Cl | C20H17ClO4S2
